US08247595B2
To a solution of 3.0 g of 6-heptynyl p-toluenesulfonate and 2.6 g of methyl (3,3,3-trifluoropropylsulfonyl)acetate in 50 ml of dimethyl sulfoxide, 1.6 g of potassium carbonate was added at room temperature. The mixture was heated to 90° C. and stirred at the same temperature for 6 hours. The reaction mixture was allowed to stand near room temperature, and 10% hydrochloric acid was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 0.80 g of methyl 2-(3,3,3-trifluoropropylsulfonyl)-8-nonynoate (hereinafter referred to as the present compound (14)).

reactant | 6-heptynyl p-toluenesulfonate | 3.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCC#C)C | C14H18O3S
reactant | methyl (3,3,3-trifluoropropylsulfonyl)acetate | 2.6 g | FC(CCS(=O)(=O)CC(=O)OC)(F)F | C6H9F3O4S
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | methyl 2-(3,3,3-trifluoropropylsulfonyl)-8-nonynoate | 0.80 g | FC(CCS(=O)(=O)C(C(=O)OC)CCCCCC#C)(F)F | C13H19F3O4S
